US07776910B2
To 3-[4-(2-cyano-benzenesulfinyl)-2-methoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.135 mg, 0.3165 mmol) dissolved in DCM (5 mL) was added m-CPBA (0.115 mg, 0.9495 mmol), and the mixture was stirred at room temperature for 6 hours. DCM was added and the resulting mixture was washed with sodium thiosulfate (10% aqueous solution), NaHCO3 (saturated aqueous solution), water, and brine. The organic phase was then dried over Na2SO4, filtered, and evaporated under reduced pressure. The resulting crude material was purified via flash chromatography (hexane/EtOAc, 1/1) to give 0.125 g (89% yield) of 3-[4-(2-cyano-benzenesulfonyl)-2-methoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as a clear oil.

reactant | 3-[4-(2-cyano-benzenesulfinyl)-2-methoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.3165 mmol, 0.135 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)C1=C(C=CC=C1)C#N)OC | C23H26N2O4S
reactant | m-CPBA | 0.9495 mmol, 0.115 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(2-cyano-benzenesulfonyl)-2-methoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.125 g, 89% yield | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=C(C=CC=C1)C#N)OC | C23H26N2O5S
